US04459407
To a mixture of 372 mg of sodium hydride (purity 50%) and 30 ml of N,N-dimethylformamide was added dropwise a solution of 3 g of 1-benzyl-4-[4-(2-pyrimidinylamino)benzyl]-2,3-dioxopiperazine in 20 ml of N,N-dimethylformamide with stirring over 30 min., after which the resulting mixture was subjected to reaction at 60° to 70° C. for one hour. After the completion of the reaction, 1.3 g of pivaloyloxymethyl chloride was dropped thereinto over 10 min. at the same temperature. After the completion of the dropwise addition, the resulting mixture was subjected to reaction at 70° to 80° C. for 30 min. After the completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue thus obtained was extracted with 100 ml of chloroform. The chloroform layer was washed with 30 ml of water and 40 ml of saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (Wakogel C-200, eluted with chloroform), and then recrystallized from ethyl acetate-diisopropyl ether, to obtain 2.5 g (64.3% yield) of 1-benzyl-4-{4-[N-pivaloyloxymethyl-N-(2-pyrimidinyl)amino]benzyl}-2,3-dioxopiperazine having a melting point of 144° to 146° C.

reactant | sodium hydride | 372 mg | [H-].[Na+]
reactant | 1-benzyl-4-[4-(2-pyrimidinylamino)benzyl]-2,3-dioxopiperazine | 3 g | C(C1=CC=CC=C1)N1C(C(N(CC1)CC1=CC=C(C=C1)NC1=NC=CC=N1)=O)=O | C22H21N5O2
reactant | pivaloyloxymethyl chloride | 1.3 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-4-{4-[N-pivaloyloxymethyl-N-(2-pyrimidinyl)amino]benzyl}-2,3-dioxopiperazine | 2.5 g, 64.3% yield | C(C1=CC=CC=C1)N1C(C(N(CC1)CC1=CC=C(C=C1)N(C1=NC=CC=N1)COC(C(C)(C)C)=O)=O)=O | C28H31N5O4
